US07220856B2
Preparation of 4-[3-(tert-Butoxycarbonylamino)pyrrolidin1-yl]-7-chloroquinolin
In a method similar to Example A 4,7-dichloroquinoline (0.49 g, 2.0 mmol), 3-(tert-butoxycarbonylamino)pyrrolidine (1.86 g, 10.0 mmol) and 1,4-diazabicyclo[2.2.2]octane (1.12 g, 10.0 mmol) are heated in EtOH for 15 h at reflux. The reaction mixture is concentrated, diluted with EtOAc, washed with water, dried (MgSO4), and concentrated. The residue is purified by column chromatography with hexane-EtOAc yielding 245 mg of the product as a colorless solid.

reactant | 4,7-dichloroquinoline | 2.0 mmol, 0.49 g | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | 3-(tert-butoxycarbonylamino)pyrrolidine | 10.0 mmol, 1.86 g | C(C)(C)(C)OC(=O)NC1CNCC1 | C9H18N2O2
reactant | 1,4-diazabicyclo[2.2.2]octane | 10.0 mmol, 1.12 g | N12CCN(CC1)CC2 | C6H12N2
solvent | EtOH | CCO | C2H6O
product | 4-[3-(tert-Butoxycarbonylamino)pyrrolidin1-yl]-7-chloroquinolin | C(C)(C)(C)OC(=O)NC1CN(CC1)C1=CC=NC2=CC(=CC=C12)Cl | C18H22ClN3O2
